US06130315
3-tert-Butyloxycarbonylamino-1,1,1-trifluoro-5-methyl-2-hexanol
A mixture of 0.5 g of 3-amino-1,1,1-trifluoro-5-methyl-2-hexanol HCl, 0.5 g of di-tert-butyl dicarbonate and 0.45 g of KHCO3 in 1.6 ml in 1.6 ml of H2O/dioxane (1:1) was stirred at room temperature for 14 hours. Workup in Et2O/H2O gave, after washing of the organic layer with aqueous NaHSO4, H2O and brine and drying (MgSO4) followed by flash evaporation of the solvents 0.55 g of the expected Boc derivative, Rf 0.44 (Et2O/pentane (1:1)).

reactant | 3-amino-1,1,1-trifluoro-5-methyl-2-hexanol HCl | 0.5 g | Cl.NC(C(C(F)(F)F)O)CC(C)C
reactant | di-tert-butyl dicarbonate | 0.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | H2O dioxane | 1.6 ml | O.O1CCOCC1
solvent | Et2O H2O | CCOCC.O
product | 3-tert-Butyloxycarbonylamino-1,1,1-trifluoro-5-methyl-2-hexanol | C(C)(C)(C)OC(=O)NC(C(C(F)(F)F)O)CC(C)C | C12H22F3NO3
